US04138397
6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid, ethyl ester
6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid, sodium salt, hereinafter referred to as 6-APA, sodium salt, (5.0 mmole) is added to 50 ml of dimethylformamide at room temperature. After stirring for 15 minutes, 5.5 mmole of ethyl bromide is added. This mixture is stirred for 2 to 3 hours after which it is diluted with ethyl acetate and water. The pH is adjusted to about 6.5 to 7.0 by the addition of hydrochloric acid and the organic phase is separated from the aqueous phase. The organic phase is washed with water, dried over magnesium sulfate, filtered and evaporated to give the title compound.

reactant | 6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid | NC1C2SC(C(N2C1=O)C(=O)O)(C)C | C8H12N2O3S
reactant | sodium | [Na] | Na
reactant | 6-APA | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
reactant | sodium | 5.0 mmole | [Na] | Na
reactant | ethyl bromide | 5.5 mmole | C(C)Br | C2H5Br
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-Amino-3,3-dimethyl-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane-2-carboxylic acid, ethyl ester | NC1C2SC(C(N2C1=O)C(=O)OCC)(C)C | C10H16N2O3S
